US04618357
Preparation of N-[(Acetylamino)Methyl]-2-Chloro-N-[2-Methyl-1-(1-Methyl-Ethyl)-1-Propenyl]Acetamide
To a stirred solution of 36 gm of concentrated H2SO4 at 5° C. was added 8.7 ml of acetic anhydride, and the mixture was stirred in the cold for about 0.5 hours. Acetonitrile (5.35 gm) was added, the solution was stirred for 5 minutes, and then 6.81 gm of N-methoxymethyl-2-chloro-N-[2-methyl-1-(1-methyl-ethyl)-1-propenyl]-acetamide was added. The reaction mixture was allowed to warm to room temperature over 4 hours and then partitioned between 100 ml of methylene chloride and 100 ml of H2O. The organic layer was washed with 75 ml of H2O, then 75 ml of saturated NaCl, and dried over MgSO4. Filtration and concentration gave an off-white solid which was washed through a 5 cm plug of silicagel with 50% ethyl acetate in hexane to afford 3.6 gm of product as a white solid (m.p. 113°-114° C.). (48% yield) Analysis for C12H21ClN2O2 :

reactant | H2SO4 | 36 gm | OS(=O)(=O)O | H2O4S
reactant | acetic anhydride | 8.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-methoxymethyl-2-chloro-N-[2-methyl-1-(1-methyl-ethyl)-1-propenyl]-acetamide | 6.81 gm | COCN(C(CCl)=O)C(=C(C)C)C(C)C | C11H20ClNO2
reactant | Acetonitrile | 5.35 gm | C(C)#N | C2H3N
product | N-[(Acetylamino)Methyl]-2-Chloro-N-[2-Methyl-1-(1-Methyl-Ethyl)-1-Propenyl]Acetamide | 3.6 gm, 48% yield | C(C)(=O)NCN(C(CCl)=O)C(=C(C)C)C(C)C | C12H21ClN2O2
